US06518222B2
A mixture of 58.4 g (0.21 mole) of ethyl [(3,6-dimethoxypyridin-2-yl)amino]carbonothioylcarbamate, 70 g (1 mole) of hydroxylamine hydrochloride and 105 mL (0.6 mole) of diisopropylethylamine in 1 liter of ethanol was heated to reflux for 12 hr. After cooling, the resulting solution was evaporated to dryness under vacuum. Water (250 ml) and diethyl ether (100 ml) were added to the residue and the mixture was stirred for 15 min. The product was collected by filtration and dried under a vacuum at room temperature to give 25.2 g of 2-amino-5,8-dimethoxy[1,2,4]triazolo[1,5-a]pyridine. mp 223-234° C. 1H NMR (DMSO-d6): δ 6.9 (d, 1H, j=8.7) 6.2 (d, 1H, j=8.4); 5.9 (s, 2H); 4.0 (s, 3H); 3.8 (s, 3H).

reactant | ethyl [(3,6-dimethoxypyridin-2-yl)amino]carbonothioylcarbamate | 0.21 mole, 58.4 g | COC=1C(=NC(=CC1)OC)NC(=S)NC(OCC)=O | C11H15N3O4S
reactant | hydroxylamine hydrochloride | 1 mole, 70 g | Cl.NO
reactant | diisopropylethylamine | 0.6 mole, 105 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 2-amino-5,8-dimethoxy[1,2,4]triazolo[1,5-a]pyridine | 25.2 g | NC1=NN2C(C(=CC=C2OC)OC)=N1 | C8H10N4O2
